datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([H:14])([H:15])[H:16])([C:4]([O:5][O:6])([H:17])[H:18])[O:7][O:8][H:19])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([C:3]([H:15])[H:16])([C:4]([O:5][O:6][H:14])([H:17])[H:18])[O:7][O:8][H:19])([H:12])[H:13])([H:9])([H:10])[H:11],89.956
[S:0]([S:1][H:3])[H:2].[S:4][H:5]>>[H:2].[S:0]([S:1][H:3])[S:4][H:5],109.035
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[C:7]([C:8](=[S:9])[H:12])([H:10])[H:11]>>[C:0](=[C:1]=[C:2]([H:5])[H:6])[H:4].[H:3][C:7]([C:8](=[S:9])[H:12])([H:10])[H:11],64.852
[C:0]([C:1]([C:2]([C:3]([O:4][O:5])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:9])([H:13])[H:14])([H:11])[H:12])[H:10])([H:6])([H:7])[H:8],76.0233
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:20])([H:21])[H:22])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[H:23]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:20])([H:21])[H:22])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])([H:7])([H:8])[H:9].[H:10][H:23],18.706664
[C:0]#[C:1][H:2].[c:3]1[c:4]([H:9])[c:5]([H:10])[c:6]([H:11])[c:7]([H:12])[c:8]1[H:13]>>[C:0](#[C:1][H:2])[c:3]1[c:4]([H:9])[c:5]([H:10])[c:6]([H:11])[c:7]([H:12])[c:8]1[H:13],2.49434
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]([C:11](=[C:12]([H:17])[H:18])[C:13]([H:19])([H:20])[H:21])[H:16])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:11]([C:10](=[C:9]([H:14])[H:15])[H:16])([C:12]([H:17])[H:18])[C:13]([H:19])([H:20])[H:21])[H:4],47.6139
[N:0]([N:1]([H:3])[H:4])[H:2].[O:5][H:6]>>[H:3][O:5][H:6].[N:0](=[N:1][H:4])[H:2],-4.97896
[C:0]1([H:10])[C:1]([H:11])=[C:2]([H:12])[C:3]([H:13])([H:14])[C:4]2([H:15])[C:5]([H:16])=[C:6]([H:17])[C:7]([H:18])=[C:8]([H:19])[C:9]12[H:20]>>[C:0]1([H:10])[C:1]([H:11])=[C:2]([H:12])[C:3]([H:14])=[C:4]([H:15])[C:9]1([C:8](=[C:7]([C:6](=[C:5]([H:13])[H:16])[H:17])[H:18])[H:19])[H:20],102.508
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5]([C:6](=[C:7]([H:17])[H:18])[H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8]>>[C:0](#[C:1][C:2]1([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])([H:13])[C:5]([H:14])([H:15])[C:6]([H:16])[C:7]1([H:17])[H:18])[H:8],54.8941
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8](#[C:9][C:10]([C:11]([H:14])([H:15])[H:16])[C:12]([H:17])([H:18])[H:19])[H:13]>>[C:0](#[C:1][C:2]([C:3]([H:6])[H:7])([H:5])[C:10]([C:9]#[C:8][H:13])([C:11]([H:14])([H:15])[H:16])[C:12]([H:17])([H:18])[H:19])[H:4],37.9489
[C:0]([O:1][C:2]([C:3]([H:8])([H:9])[H:10])=[O:4])([H:5])([H:6])[H:7].[O:11][H:12]>>[C:0]([O:1][C:2]([C:3]([H:8])([H:9])[H:10])=[O:4])([H:6])[H:7].[H:5][O:11][H:12],6.65256
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:6])[H:7].[C:19]([H:20])([H:21])[H:22]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:6])([H:7])[C:19]([H:20])([H:21])[H:22],0.0
[C:0](=[C:1]([c:2]1[c:3]([H:16])[c:4]([H:17])[c:5]([H:18])[c:6]([H:19])[c:7]1[H:20])[H:15])([c:8]1[c:9]([H:21])[c:10]([H:22])[c:11]([H:23])[c:12]([H:24])[c:13]1[H:25])[H:14].[C:26]([C:27]([C:28]([H:38])([H:39])[H:40])[c:29]1[c:30]([H:41])[c:31]([H:42])[c:32]([H:43])[c:33]([H:44])[c:34]1[H:45])([H:35])([H:36])[H:37]>>[C:0]([C:1]([c:2]1[c:3]([H:16])[c:4]([H:17])[c:5]([H:18])[c:6]([H:19])[c:7]1[H:20])[H:15])([c:8]1[c:9]([H:21])[c:10]([H:22])[c:11]([H:23])[c:12]([H:24])[c:13]1[H:25])([H:14])[C:27]([C:26]([H:35])([H:36])[H:37])([C:28]([H:38])([H:39])[H:40])[c:29]1[c:30]([H:41])[c:31]([H:42])[c:32]([H:43])[c:33]([H:44])[c:34]1[H:45],41.5053
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])[H:7])([H:5])[H:6].[C:15]([S:16][H:19])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:7])([H:5])[H:6].[H:8][C:15]([S:16][H:19])([H:17])[H:18],13.8072
[C:0](#[C:1][C:2]([C:3]#[C:4][H:9])=[C:5]([C:6]([H:10])([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])[H:8].[H:16]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:9])[C:5]([C:6]([H:10])([H:11])[H:12])([C:7]([H:13])([H:14])[H:15])[H:16])[H:8],4.14216
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]([C:14]([C:15](=[C:16]([H:26])[H:27])[H:25])=[C:17]([C:18](=[C:19]([H:29])[H:30])[H:28])[C:20](=[C:21]([H:32])[H:33])[H:31])[H:24])([H:22])[H:23]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:14]([C:13](=[C:12]([H:22])[H:23])[H:24])([C:15](=[C:16]([H:26])[H:27])[H:25])[C:17]([C:18](=[C:19]([H:29])[H:30])[H:28])[C:20](=[C:21]([H:32])[H:33])[H:31])[H:5],26.4847
